US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethynylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (44.0 mg, 0.079 mmol) in DCM (6 ml) was added TFA (2.0 mL) and the reaction mixture was stirred at rt for one hour. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethynylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (23 mg, 0.042 mmol, 54% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.72 (s, 1H), 7.53 (s, 1H), 7.29-7.40 (m, 2H), 7.25 (s, 1H), 7.20 (s, 1H), 4.63 (s, 2H), 3.74 (s, 1H). LC-MS (ES+) m/z 429.00, [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethynylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.079 mmol, 44.0 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#C)C#N)F)COCC[Si](C)(C)C | C26H25Cl2FN4O3Si
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(3-cyano-5-ethynylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.042 mmol, 23 mg, 54% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#C)C#N)F | C20H11Cl2FN4O2
